US06329370B1
(5-Difluoromethoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide
Under N2, a solution of 3-bromo-6-difluoromethoxy-3H-isobenzofuran-1-one (6.2 g, 22.2 mmoles), prepared as described in example 95, in dry acetonitrile (30 ml) was added with triphenylphosphine (6.4 g, 24.4 mmoles). After 4 hours under reflux the mixture was dried to give a foam which was triturated in ethyl ether overnight, then filtered, washed with ethyl ether and dried to give 11.4 g of the title compound (yield: 95%).

reactant | 3-bromo-6-difluoromethoxy-3H-isobenzofuran-1-one | 22.2 mmoles, 6.2 g | BrC1OC(C2=CC(=CC=C12)OC(F)F)=O | C9H5BrF2O3
reactant | triphenylphosphine | 24.4 mmoles, 6.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | (5-Difluoromethoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide | 11.4 g, yield: 95% | [Br-].FC(OC=1C=C2C(OC(C2=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)F | InChI=1S/C27H20F2O3P.BrH/c28-27(29)31-19-16-17-23-24(18-19)25(30)32-26(23)33(20-10-4-1-5-11-20,21-12-6-2-7-13-21)22-14-8-3-9-15-22;/h1-18,26-27H;1H/q+1;/p-1
